US04216218
A solution of 7.98 g of 3-(2-fluorophenyl)-1-methyl-4-piperidone in 40 ml of dry tetrahydrofuran is cooled to 5° C. under nitrogen and treated dropwise with 49 ml of a 1.0 molar tetrahydrofuran solution of lithium tri-secondary butylborohydride, keeping the pot temperature below 10° C. The mixture is then stirred 18 hours at room temperature under nitrogen. The mixture is cooled while 175 ml of 10% aqueous NaOH solution are added, keeping the pot temperature below 10° C. 117 ml of 30% H2O2 solution are added to the cooled mixture at a rate sufficient to keep the pot temperature at 30°-40° C. The mixture is stirred for 18 hours at ambient temperature followed by refluxing for one hour under nitrogen. The mixture is cooled and the phases are separated. The aqueous phase is extracted with dichloromethane and the combined organic phases are concentrated in vacuo. The residue is treated with 250 ml of cyclohexane and the mixture is concentrated. The residue is partitioned between dichloromethane and saturated NaCl solution. The dichloromethane phase is dried over anhydrous Na2SO4, filtered and concentrated to vacuo to a solid. This material is triturated with ether, filtered and dried to afford a solid. This material is recrystallized from benzene to afford cis-3-(2-fluorophenyl)-1-methyl-4-piperidinol, m.p. 158.5°-160° C.

reactant | 3-(2-fluorophenyl)-1-methyl-4-piperidone | 7.98 g | FC1=C(C=CC=C1)C1CN(CCC1=O)C | C12H14FNO
reactant | lithium tri-secondary butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | NaOH | 175 ml | [OH-].[Na+]
reactant | H2O2 | 117 ml | OO | H2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 molar | O1CCCC1 | C4H8O
product | cis-3-(2-fluorophenyl)-1-methyl-4-piperidinol | FC1=C(C=CC=C1)[C@@H]1CN(CC[C@@H]1O)C | C12H16FNO
